US08211908B2
To a solution of 0.30 g of 3-methoxypyrido(2,3-b)pyrazin-6(5H)-one in 6 mL of N,N-dimethylformamide, 0.35 g of potassium carbonate was added, and the mixture was stirred at 65 to 75° C. for 10 minutes. Thereto was added 0.21 mL of 2-bromomethyl-1,3-dioxolan, and the mixture was stirred at 95 to 100° C. for 1 hour 30 minutes. Thereto were further added 0.05 mL of 2-bromomethyl-1,3-dioxolan and 120 mg of potassium carbonate, and the mixture was stirred at 95 to 100° C. for 2 hours 15 minutes. The reaction mixture was cooled to room temperature, and water and ethyl acetate were then added thereto, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, and the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=2:1 to obtain 0.13 g of 5-(1,3-dioxolan-2-ylmethyl)-3-methoxypyrido(2,3-b)pyrazin-6(5H)-one as a yellow solid.

reactant | 3-methoxypyrido(2,3-b)pyrazin-6(5H)-one | 0.30 g | COC1=CN=C2C(=N1)NC(C=C2)=O | C8H7N3O2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.21 mL | BrCC1OCCO1 | C4H7BrO2
reactant | 2-bromomethyl-1,3-dioxolan | 0.05 mL | BrCC1OCCO1 | C4H7BrO2
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(1,3-dioxolan-2-ylmethyl)-3-methoxypyrido(2,3-b)pyrazin-6(5H)-one | 0.13 g | O1C(OCC1)CN1C(C=CC=2C1=NC(=CN2)OC)=O | C12H13N3O4
